US07101891B2
9-Chloro-3-methyl-5-(1-phenylmethanesulfonyl-piperidin-3-yl)-5H-isoxazolo[4,3-c]quinolin-4-one
To a 0° C. suspension of 9-chloro-3-methyl-5-piperidin-3-yl-5H-isoxazolo[4,3-c]quinolin-4-one hydroiodide (50 mg, 0.11 mmol) in ethanol (5 mL) add 1,8-diazabicyclo[5.4.0]undec-7-ene (42 μL, 0.28 mmol). Stir the solution for 10 mins. To the solution add α-toluene-sulfonyl chloride (21 mg, 0.11 mmol) and stir the reaction at 0° C. under nitrogen for 30 minutes. Quench the reaction with 1N HCl, concentrate, and extract with 20% isopropanol/chloroform (×2). Wash the combined organic layers with saturated aqueous sodium bicarbonate solution, brine, dry over magnesium sulfate and concentrate. Purify by flash chromatography on silica gel (eluting with 0–0.4% methanol/chloroform) to give 37.9 mg of the title compound as a white solid, 72% yield. 1H NMR: consistent with structure. MS (ion spray) 472 (M+).

reactant | 9-chloro-3-methyl-5-piperidin-3-yl-5H-isoxazolo[4,3-c]quinolin-4-one hydroiodide | 0.11 mmol, 50 mg | I.ClC=1C=2C=3C(C(N(C2C=CC1)C1CNCCC1)=O)=C(ON3)C
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 0.28 mmol, 42 μL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | α-toluene-sulfonyl chloride | 0.11 mmol, 21 mg | C1(=CC=CC=C1)CS(=O)(=O)Cl | C7H7ClO2S
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 9-Chloro-3-methyl-5-(1-phenylmethanesulfonyl-piperidin-3-yl)-5H-isoxazolo[4,3-c]quinolin-4-one | 37.9 mg, 72% yield | ClC=1C=2C=3C(C(N(C2C=CC1)C1CN(CCC1)S(=O)(=O)CC1=CC=CC=C1)=O)=C(ON3)C | C23H22ClN3O4S
